US07041691B1
2-Chloro-N-[3-chloro-4-(naphthalen-2-ylsulfanyl)-phenyl]-4-trifluoromethyl-benzenesulfonamide (95)
The title compound was prepared using the method of example 94, starting with 3-chloro-4-(naphthalen-2-ylsulfanyl)-phenylamine (150 mg, 0.53 mmol), pyridine (Aldrich, 0.21 mL, 2.63 mmol) and 2-chloro-4-trifluoromethylbenzenesulfonyl chloride (Maybridge, 162 mg, 0.58 mmol) in THF. 250 mg (90%) of title compound (95) was obtained as a pale yellow solid.

reactant | 3-chloro-4-(naphthalen-2-ylsulfanyl)-phenylamine | 0.53 mmol, 150 mg | ClC=1C=C(C=CC1SC1=CC2=CC=CC=C2C=C1)N | C16H12ClNS
reactant | pyridine | 2.63 mmol, 0.21 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-chloro-4-trifluoromethylbenzenesulfonyl chloride | 0.58 mmol, 162 mg | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3Cl2F3O2S
solvent | THF | C1CCOC1 | C4H8O
product | 2-Chloro-N-[3-chloro-4-(naphthalen-2-ylsulfanyl)-phenyl]-4-trifluoromethyl-benzenesulfonamide | 250 mg, 90% | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)NC1=CC(=C(C=C1)SC1=CC2=CC=CC=C2C=C1)Cl | C23H14Cl2F3NO2S2
